US04155913
0.8 g of 7-chloro-5-(o-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione are refluxed in 40 ml of absolute methanol with 1.5 g of oxalic acid amide hydrazide for 1.5 hours. The solution is concentrated to 10 ml and left to crystallize in a refrigerator. The filtered and dried 7-chloro-5-(o-chlorophenyl)-2-(2-oxalylamidohydrazino)-3H-thieno[2,3-e]-1,4-diazepine is refluxed in 100 ml of absolute xylene for 3 hours. The organic phase is evaporated and the residue recrystallized from ethanol to yield 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-carboxylic acid amide, melting point 248°-251° C.

reactant | 7-chloro-5-(o-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione | 0.8 g | ClC1=CC2=C(NC(CN=C2C2=C(C=CC=C2)Cl)=S)S1 | C13H8Cl2N2S2
reactant | oxalic acid amide hydrazide | 1.5 g | C(C(=O)NN)(=O)N | C2H5N3O2
solvent | methanol | 40 ml | CO | CH4O
product | 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-carboxylic acid amide | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C(=O)N)C3=C(C=CC=C3)Cl | C15H9Cl2N5OS
